US07829063B2
To a 200 mL round bottomed flask equipped with a magnetic stir bar, rubber septum, and argon inlet containing DCM (150 mL) was placed trans-2-phenyl-1,3-dioxan-5-ol (8.0 g, 44 mmol). To this solution was added TEA (13.5 g, 133 mmol) and the reaction was allowed to stir at ice bath temperature for 30 min. Trifluoromethanesulfonic anhydride (15 ml, 89 mmol) was added drop wise in 30 min. After the reaction was complete (30 min), it was concentrated in vacuo. The residue was purified over silica gel using Hexanes:EtOAc (5:1) as an eluent to afford trans-2-phenyl-1,3-dioxan-5-yl trifluoromethanesulfonate (5.7 g, 41%) as a yellow solid. (S)-methyl 2-(tert-butoxycarbonylamino)-3-(4-hydroxyphenyl)propanoate (6.4 g, 22 mmol) and sodium hydride (95% suspended in mineral oil) (0.51 g, 20 mmol) were dissolved in DMF (45 mL). After stirred at room temperature for 5 min, the above trans-2-phenyl-1,3-dioxan-5-yl trifluoromethanesulfonate (5.2 g, 17 mmol) was added into the reaction in the DMF (45 mL) solution. The reaction was allowed to stir at room temperature 15 h. The reaction was concentrated in vacuo. The residue was diluted with EtOAc (150 mL) and washed with brine (50 mL). The organic layer was concentrated again and purified on a silica gel. Product eluted out in 50% EtOAc:Hexanes mixture in a gradient elution on a Combiflash purification system. Isolated 118 (1.9 g, 25%) as a yellow solid.

reactant | trans-2-phenyl-1,3-dioxan-5-ol | 44 mmol, 8.0 g | C1(=CC=CC=C1)[C@@H]1OC[C@H](CO1)O | C10H12O3
reactant | Trifluoromethanesulfonic anhydride | 89 mmol, 15 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | trans-2-phenyl-1,3-dioxan-5-yl trifluoromethanesulfonate | 5.7 g, 41% | FC(S(=O)(=O)O[C@H]1CO[C@@H](OC1)C1=CC=CC=C1)(F)F | C11H11F3O5S
